US08648068B2
N-(4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl)-methanesulfonamide
4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (150 mg), 4-dimethylaminopyridine (61 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (96 mg) was dissolved in dichloromethane. To this mixture methanesulfonamide (48 mg) was added and the reaction was stirred overnight. The reaction mixture was diluted with KHSO4 The organic layer was separated, dried and concentrated. The residue was purified by silica chromatography (Dichloromethane/MeOH/NH3 10:1:0,1).

reactant | 4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 150 mg | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2COCC2 | C18H16FN3O4S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 96 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | methanesulfonamide | 48 mg | CS(=O)(=O)N | CH5NO2S
catalyst | 4-dimethylaminopyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | KHSO4 | OS(=O)(=O)[O-].[K+]
product | N-(4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carbonyl)-methanesulfonamide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)NS(=O)(=O)C)O[C@H]2COCC2 | C19H19FN4O5S2
